US04022769
To a solution of 17β, 19-dihydroxy-1α,7α-dimethyl-4-androsten-3-one in acetone at 20° C. is added two equivalents of Jones Reagent and the mixture stirred for 30 minutes. The acetone layer is poured onto water with vigorous stirring. The crystals are removed by suction filtration and air dried. Crystallization from an acetone-hexane solution yields 1α,7α-dimethyl-4-androstene-3,17,19-trione.

reactant | 17β, 19-dihydroxy-1α,7α-dimethyl-4-androsten-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC3=CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O)C | C21H32O3
reactant | Jones Reagent | two equivalents | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | CC(=O)C | C3H6O
product | 1α,7α-dimethyl-4-androstene-3,17,19-trione | C[C@H]1CC(C=C2C[C@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C=O)=O)C)=O | C21H28O3
